US05358949
To 5 g of 7-acetylamino-8-methylcarbostyril was added 60 ml of 20% hydrochloric acid, and the mixture was heated at 11020 to 120° C. on an oil bath with stirring. After heating for 4 hours, the solvent was removed by evaporation under pressure, then the residue obtained was washed with hot-methanol, dried, next recrystallized from methanol-water to obtain 5.25 g of 7-amino-8-methylcarbostyril hydrochloride. Light yellow needle-like crystals. Melting point: 290°-293° C. (decomposed).

reactant | 7-acetylamino-8-methylcarbostyril | 5 g | C(C)(=O)NC1=CC=C2C=CC(NC2=C1C)=O | C12H12N2O2
reactant | hydrochloric acid | 60 ml | Cl | ClH
product | 7-amino-8-methylcarbostyril hydrochloride | 5.25 g | Cl.NC1=CC=C2C=CC(NC2=C1C)=O | InChI=1S/C10H10N2O.ClH/c1-6-8(11)4-2-7-3-5-9(13)12-10(6)7;/h2-5H,11H2,1H3,(H,12,13);1H
